US07030121B2
To a mixture of 5-bromo-2-(phenylsulfonyl)pyridine (6.00 g), ethynylbenzene (2.87 mL), dichlorobis(triphenylphosphine)palladium (II) (140 mg) and CuI (38 mg) in DMF (90 mL) was added triethylamine (8.42 mL) and the mixture was stirred at 60° C. for 1 h. The reaction mixture was diluted with EtOAc, washed with water and brine, dried over sodium sulfate, evaporated in vacuo. The residue was purified by silica gel column chromatography (CHCl3 to CHCl3-EtOAc 10:1) to give 5-(phenylethynyl)-2-(phenylsulfonyl)pyridine (6.33 g) as a solid.

reactant | 5-bromo-2-(phenylsulfonyl)pyridine | 6.00 g | BrC=1C=CC(=NC1)S(=O)(=O)C1=CC=CC=C1 | C11H8BrNO2S
reactant | ethynylbenzene | 2.87 mL | C(#C)C1=CC=CC=C1 | C8H6
reactant | triethylamine | 8.42 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 38 mg | [Cu]I
product | 5-(phenylethynyl)-2-(phenylsulfonyl)pyridine | 6.33 g | C1(=CC=CC=C1)C#CC=1C=CC(=NC1)S(=O)(=O)C1=CC=CC=C1 | C19H13NO2S
